US03970704
Ten grams of 1-bromo-3,7,11-trimethyldodeca-2,4,10-triene is mixed with 50 ml. of benzene, cooled to 5°-10° and saturated with ammonia. The resulting mixture is stirred for 4 hours allowing the temperature to rise to about 20° while maintaining dry conditions. The mixture is washed with dilute sodium hydroxide and then evaporated under reduced pressure to yield 3,7,11-trimethyldodeca-2,4,10-trienylamine.

reactant | 1-bromo-3,7,11-trimethyldodeca-2,4,10-triene | Ten grams | BrCC=C(C=CCC(CCC=C(C)C)C)C | C15H25Br
reactant | ammonia | N | H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,7,11-trimethyldodeca-2,4,10-trienylamine | CC(=CCN)C=CCC(CCC=C(C)C)C | C15H27N
